US05990101
Under an argon atmosphere at room temperature, 0.705 ml of diethyl azodicarboxylate was added dropwise to 10 ml of an anhydrous tetrahydrofuran solution containing 505 mg of 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole, 662 mg of phthalimide and 1180 mg of triphenylphosphine, and the mixture was then stirred at room temperature for 4.5 hours. The solvent was evaporated under reduced pressure to obtain an oil, and this oil was then purified by a silica gel column chromatograph and successively Cephadex LH-20 to obtain 389.3 mg of 2-phthalimidomethyl-3-methylimidazo[5,1-b]thiazole as a lemon crystal.

reactant | diethyl azodicarboxylate | 0.705 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole | 505 mg | OCC1=C(N2C(S1)=CN=C2)C | C7H8N2OS
reactant | phthalimide | 662 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-phthalimidomethyl-3-methylimidazo[5,1-b]thiazole | 389.3 mg | C1(C=2C(C(N1CC1=C(N3C(S1)=CN=C3)C)=O)=CC=CC2)=O | C15H11N3O2S
